US06677368B2
To the suspension of {2-[3-(1H-indol-4-yl)-phenyl]-ethyl}-dimethyl-amine (600 mg, 2.2 mmol) in t-BuOH:ethanol:acetic acid (14.5 mL:8.8 mL:10.5 mL) was added pyridinium tribromide (2.3 g, 6.6 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added acetic acid (9.24 mL). Water (0.32 mL) and zinc dust (2.2 g, 61.2 mmol) was added to the reaction mixture portionwise. After stirring for one hour, any unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with water (3×), sat. NaHCO3, brine, dried over Na2SO4 and concentrated. The residue was dissolved in methanol (10 mL) and hydrogenated using 10% Pd—C for overnight. The reaction was filtered through celite and the filtrate was concentrated. The residue was purified on a silica gel column to give 4-[3-(2-dimethylamino-ethyl)-phenyl]-1,3-dihydro-indol-2-one

reactant | {2-[3-(1H-indol-4-yl)-phenyl]-ethyl}-dimethyl-amine | 2.2 mmol, 600 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=CC1)CCN(C)C | C18H20N2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 14.5 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 6.6 mmol, 2.3 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 9.24 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | zinc | 61.2 mmol, 2.2 g | [Zn] | Zn
solvent | Water | 0.32 mL | O | H2O
product | 4-[3-(2-dimethylamino-ethyl)-phenyl]-1,3-dihydro-indol-2-one | CN(CCC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O)C | C18H20N2O
